US09029399B2
Preparation of Intermediate 1-(3-Bromo-pyridin-4-yl)-cyclopentanol (I-35a)
Using analogous reaction condition and reagents as described in Example 20 for the preparation of I-20a above, 3-bromo pyridine solution (1.0 g, 6.36 mmol) was reacted with cyclopentanone solution (0.6 mL, 7.0 mmol) in dry THF (6 mL), n-BuLi solution (4.0 mL, 7.6 mmol) and diisopropylethyl amine (1.0 mL, 7.0 mmol) in dry THF (6 mL) to afford the crude product. The crude was purified by column chromatography on silica gel (20% ethyl acetate in hexane) afforded 520 mg of the product (34% yield).

reactant | 3-bromo pyridine | 6.36 mmol, 1.0 g | BrC=1C=NC=CC1 | C5H4BrN
reactant | cyclopentanone | 7.0 mmol, 0.6 mL | C1(CCCC1)=O | C5H8O
reactant | n-BuLi | 7.6 mmol, 4.0 mL | [Li]CCCC
reactant | diisopropylethyl amine | 7.0 mmol, 1.0 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | THF | 6 mL | C1CCOC1 | C4H8O
solvent | THF | 6 mL | C1CCOC1 | C4H8O
product | 1-(3-Bromo-pyridin-4-yl)-cyclopentanol | 520 mg, 34% yield | BrC=1C=NC=CC1C1(CCCC1)O | C10H12BrNO
